US04560693
30 g of 4-amino-2,2-difluoro-5-nitro-1,3-benzodioxole are hydrogenated in 300 ml of methanol on 0.5 g of 10% strength palladium-on-charcoal in a circulatory hydrogenation apparatus under atmospheric pressure and at room temperature, 2.5 equivalents of methanolic hydrogen chloride solution are added, the mixture is filtered, the solution is concentrated in vacuo and isopropanol and ether are added to the residue to give 35 g (97%) of 2,2-difluoro-1,3-benzodioxole-4,5-diamine dihydrochloride of m.p. 232°-233° C. (decomposition).

reactant | 4-amino-2,2-difluoro-5-nitro-1,3-benzodioxole | 30 g | NC1=C(C=CC=2OC(OC21)(F)F)[N+](=O)[O-] | C7H4F2N2O4
reactant | hydrogen chloride | 2.5 equivalents | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2,2-difluoro-1,3-benzodioxole-4,5-diamine dihydrochloride | 35 g, 97% | Cl.Cl.FC1(OC=2C(O1)=CC=C(C2N)N)F | InChI=1S/C7H6F2N2O2.2ClH/c8-7(9)12-4-2-1-3(10)5(11)6(4)13-7;;/h1-2H,10-11H2;2*1H
